US09447091B2
e) N-(3-(4-bromo-2-nitrophenylamino)-5-(1H-pyrrol-1-yl)phenyl)acetamide
To a solution of N-(3-amino-5-pyrrol-1-yl-phenyl)acetamide (5 g, 23.23 mmol) in anhydrous DMF (5 ml), 4-bromo-1-fluoro-2-nitrobenzene (5.11 g, 23.23 mmol) and potassium fluoride (1.35 g, 23.23 mmol) were added. The mixture was stirred at 110° C. for overnight. Then the mixture was brought to RT and DMF was removed under vacuum. Residue was subjected to flash column chromatography (50% ethyl acetate in hexanes) to get the compound in 63% yield (6.1 g).

reactant | N-(3-amino-5-pyrrol-1-yl-phenyl)acetamide | 23.23 mmol, 5 g | NC=1C=C(C=C(C1)N1C=CC=C1)NC(C)=O | C12H13N3O
reactant | 4-bromo-1-fluoro-2-nitrobenzene | 23.23 mmol, 5.11 g | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | potassium fluoride | 23.23 mmol, 1.35 g | [F-].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-(3-(4-bromo-2-nitrophenylamino)-5-(1H-pyrrol-1-yl)phenyl)acetamide | 63% yield | BrC1=CC(=C(C=C1)NC=1C=C(C=C(C1)N1C=CC=C1)NC(C)=O)[N+](=O)[O-] | C18H15BrN4O3
